US04031069
Nα-t-Butoxycarbonyl-L-tryptophyl-O-benzyl-L-seryl-O-benzyl-L-tyrosyl-D-alanine resin is prepared from 23 g., 14 mmol. of Nα-t-butoxycarbonyl-D-alanine resin by successive coupling, according to the general process for solid phase synthesis given in Example 1 with (1) 7 g., 19 mmol, of Nα-t-butoxycarbonyl-O-benzyl-L-tyrosine and 4 g., 19.4 mmol, of dicyclohexylcarbodiimide, (2) 6 g., 19.7 mmol, of Nα-t-butoxycarbonyl-O-benzyl-L-serine and 4 g. of dicyclohexylcarbodiimide, and (3) 6 g., 19.7 mmol, of Nα-t-butoxycarbonyl-L-tryptophan and 4 g. of dicyclohexylcarbodiimide. The resin thus obtained, 30 g., is stirred for 20 hours with 600 ml. of methanol and 50 ml. of triethylamine. The solution is filtered and evaporated. The residue is solidified by trituration in ether; 8 grams; m.p. 93°-94° C.

reactant | Nα-t-butoxycarbonyl-D-alanine | C(C)(C)(C)OC(=O)N[C@H](C)C(=O)O | C8H15NO4
reactant | Nα-t-butoxycarbonyl-O-benzyl-L-tyrosine | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)O | C21H25NO5
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | Nα-t-butoxycarbonyl-O-benzyl-L-serine | C(C)(C)(C)OC(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)O | C15H21NO5
reactant | Nα-t-butoxycarbonyl-L-tryptophan | C(C)(C)(C)OC(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C16H20N2O4
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methanol | CO | CH4O
product | Nα-t-Butoxycarbonyl-L-tryptophyl-O-benzyl-L-seryl-O-benzyl-L-tyrosyl-D-alanine | C(C)(C)(C)OC(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N[C@H](C)C(=O)O | C45H51N5O9
